US08168794B2
A solution of cis(+/−)-1-benzyl 3-methyl 5-(tert-butoxycarbonylamino)piperidine-1,3-dicarboxylate (1.0 eq.) in THF at a concentration of 0.08 M was cooled at 0° C. and then LiCl (2.3 eq.) and sodium borohydride (2.3 eq.) were added. After stirring for 20 hours as the reaction warmed to rt, the pH was adjusted with 1M citric acid to pH 4-5. After removal of the volatiles in vacuo, the product was extracted in dichloromethane, washed with H2O and brine, dried over MgSO4. Upon filtering and removal of the volatiles in vacuo, cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate was obtained as a white foamy solid. LCMS (m/z): 265.0 (MH-Boc+); LC Rt=3.37 min.

reactant | cis(+/−)-1-benzyl 3-methyl 5-(tert-butoxycarbonylamino)piperidine-1,3-dicarboxylate | 1.0 eq. | C(C)(C)(C)OC(=O)N[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C20H28N2O6
reactant | LiCl | 2.3 eq. | [Li+].[Cl-]
reactant | sodium borohydride | 2.3 eq. | [BH4-].[Na+]
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
product | cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)CO)C(=O)OCC1=CC=CC=C1 | C19H28N2O5
